US06448277B2
2-Methyl-6-nitrobenzoic acid is reacted with trimethylsilyldiazomethane to yield methyl 2-methyl-6-nitrobenzoate with m.p. 44-45° (Chem. Pharm. Bull., Vol. 29, 1475 (1981)). Methyl 2-methyl-6-nitrobenzoate is hydrogenated in methanol in the presence of palladium, 10% on carbon powder, at room temperature and atmospheric pressure to give methyl 2-methyl-6-aminobenzoate.

reactant | Methyl 2-methyl-6-nitrobenzoate | CC1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C9H9NO4
solvent | methanol | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | methyl 2-methyl-6-aminobenzoate | CC1=C(C(=O)OC)C(=CC=C1)N | C9H11NO2
